.subckt sg13g2_o21ai_2 Y A1 A2 B1 VDD VSS
XP0 net14 A1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP1 Y A2 net14 VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP2 Y B1 VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XN0 net1 A2 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN2 net1 A1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN1 Y B1 net1 VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
.ends
